**********
* Copyright Intusoft 1997
* All Rights Reserved
**********
*SRC=MC10H131;MC10H131;ECL;MC10H;D F-F, BJT Level
*SYM=ARF131
* PINOUT        V1 Q1 QN R1 S1 E1 D1 VE CC D2 E2 S2 R2 Q2 QN V2
* Dual D Flip-flop
.SUBCKT MC10H131  1  2  3  4  5  6  7  8  9 10 11 12 13 14 15 16
X1 20 21 22  6  9  7  5  4 18 19 EFLP 
X2 20 21 22 11  9 10 12 13 23 17 EFLP
L1 1 20 3.5E-9
L2 16 21 3.5E-9
L3 8 22 3.5E-9
L4 2 18 3.5E-9
L5 3 19 3.5E-9
L6 14 23 3.5E-9
L7 15 17 3.5E-9
.ENDS
.SUBCKT EFLP 44 45 50 41 42 43 49 46 48 47
* PINOUT ORD VA VB VE CE CK  D SD RD  Q NQ
X1 41 42 62 51 44 45 50 ECL2
X2 51 52 58 53 44 45 50 ECL2
X3 46 53 54 59 52 44 45 50 ECL3
X4 51 53 54 60 55 44 45 50 ECL3
X5 49 55 43 61 54 44 45 50 ECL3
X6 46 53 57 47 56 44 45 50 ECL3
X7 56 55 49 48 57 44 45 50 ECL3
RO1 62 50 1E6
RO2 58 50 1E6
RO3 59 50 1E6
R04 60 50 1E6
R05 61 50 1E6
R06 47 50 1E6
R07 48 50 1E6
.ENDS
.SUBCKT ECL2 1 2 4 5 6 7 8
* PINOUT ORDER IS INA INB +OUT -OUT VCCO VCCI VEE
ICC 8 6 4.67E-3
VGR 39 0 -2.0
RD1 4 39 500
RD2 5 39 500
Q01 24 1 21 QFH
Q02 24 2 21 QFH
Q04 21 31 22 QFH
Q05 6 24 5 QFH
Q06 6 26 4 QFH
Q07 28 29 30 QFH
Q08 26 27 21 QFH
Q09 7 28 27 QFH
Q10 27 29 31 QFH
Q11 32 32 8 QFH
Q12 33 34 35 QFH
Q13 29 33 8 QFH
R01 1 8 50E3
R02 2 8 50E3
R04 7 24 285
R05 7 29 1740
R06 7 26 285
R07 8 22 139
R08 31 32 251
R09 32 34 50
R10 8 35 217
R11 30 33 2178
R12 7 28 2178
.MODEL QFH NPN (BF= 80  VAF=120  VAR=12.0  RC=7.2 RB=4.1
+RE=.35  IKF=0.2E-01  ISE=0.15E-13  TF=0.255E-10
+TR=0.15E-08  ITF=0.2E-01  VTF=0.5E+01  CJC=0.43E-12
+CJE=0.13E-12  XTI=3.0  NE=1.5  ISC=0.37E-14  EG=1.11
+XTB=1.5  BR=5.7  VJC=0.75  VJE=0.75  IS=5.5E-14
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=0.2E-01  KF=0.1E-14
+NC=1.7  FC=0.50  RBM=3  IRB=0.30E-02  XCJC=0.5)
.ENDS
.SUBCKT ECL3 1 2 3 4 5 6 7 8
* PINOUT ORDER IS INA INB INC +OUT -OUT VCCO VCCI VEE
ICC 8 6 4.67E-3
VGR 39 0 -2.0
RD1 4 39 500
RD2 5 39 500
Q01 24 1 21 QFH
Q02 24 2 21 QFH
Q03 24 3 21 QFH
Q04 21 31 22 QFH
Q05 6 24 5 QFH
Q06 6 26 4 QFH
Q07 28 29 30 QFH
Q08 26 27 21 QFH
Q09 7 28 27 QFH
Q10 27 29 31 QFH
Q11 32 32 8 QFH
Q12 33 34 35 QFH
Q13 29 33 8 QFH
R01 1 8 50E3
R02 2 8 50E3
R03 3 8 50E3
R04 7 24 285
R05 7 29 1740
R06 7 26 285
R07 8 22 139
R08 31 32 251
R09 32 34 50
R10 8 35 217
R11 30 33 2178
R12 7 28 2178
.MODEL QFH NPN (BF= 80  VAF=120  VAR=12.0  RC=7.2 RB=4.1
+RE=.35  IKF=0.2E-01  ISE=0.15E-13  TF=0.255E-10
+TR=0.15E-08  ITF=0.2E-01  VTF=0.5E+01  CJC=0.43E-12
+CJE=0.13E-12  XTI=3.0  NE=1.5  ISC=0.37E-14  EG=1.11
+XTB=1.5  BR=5.7  VJC=0.75  VJE=0.75  IS=5.5E-14
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=0.2E-01  KF=0.1E-14
+NC=1.7  FC=0.50  RBM=3  IRB=0.30E-02  XCJC=0.5)
.ENDS
**********
*SRC=MC10H124;MC10H124;ECL;MC10H;Quad TTL-MECL Translator
*SYM=ARF124
* PINOUT      1  2  3  4  5  6  7  8  9  10  11  12  13  14  15  16
*             B  A BN AN AI ST BI VE VC  CI  DI  CN  DN   D   C   G
* Quad TTL-to-MECL Translator
.SUBCKT MC10H124 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
L01 9 17 3.5E-9
L02 16 18 3.5E-9
L03 8 19 3.5E-9
L04 2 20 3.5E-9
L05 4 21 3.5E-9
L06 1 22 3.5E-9
L07 3 23 3.5E-9
L08 15 24 3.5E-9
L09 12 25 3.5E-9
L10 14 26 3.5E-9
L11 13 27 3.5E-9
X1 5 6 21 20 18 17 19 XLTA
X2 7 6 23 22 18 17 19 XLTA
X3 10 6 25 24 18 17 19 XLTA
X4 11 6 27 26 18 17 19 XLTA
.ENDS
* PINOUT ORDER IS IN1 IN2 OUT NOUT GND +VTTL -VECL
.SUBCKT XLTA       1   27   2    3   4     5     6
Q19 5 4 27 QMX
Q01 5 4 1 QMX
Q02 7 8 9 QMX
Q03 9 9 10 QMX
Q04 10 10 11 QMX
Q05 11 11 12 QMX
Q06 12 13 14 QMX
Q07 13 16 15 QMX
Q08 18 25 17 QMX
Q09 19 14 18 QMX
Q10 20 21 18 QMX
Q11 4 19 2 QMO
Q12 4 20 3 QMO
R14 19 26 320
Q17 26 26 20 QMX
Q18 20 20 26 QMX
Q13 4 22 21 QMX
Q14 22 16 25 QMX
Q15 16 16 23 QMX
Q16 23 23 24 QMX
D1 8 1 SD
D2 8 27 SD
CSTB 4 8 0.08E-12
R01 5 7 688
R02 7 8 388
R03 11 13 275
R04 15 6 856
R05 14 6 2570
R06 19 4 320
R07 20 4 320
R08 17 6 265
R09 4 22 361
R10 4 16 1372
R11 6 21 2570
R12 6 25 873
R13 6 24 450
.MODEL QMX NPN (BF= 80  VAF=70  VAR=12  RC=9 RB=9
+RE=0.75  IKF=2E-02  ISE=1.5E-14  TF=3.0E-11
+TR=1E-09  ITF=2E-02  VTF=5  CJC=0.35E-12
+CJE=0.09E-12  XTI=3.0  NE=1.5  ISC=3.7E-15  EG=1.11
+XTB=1.5  BR=5  VJC=0.75  VJE=0.75  IS=1.45E-15
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=2E-02  KF=1E-15
+NC=1.7  FC=0.5  RBM=3  IRB=3E-03  XCJC=0.5)
.MODEL QMO NPN (BF= 80  VAF=70  VAR=12  RC=4 RB=3
+RE=0.5  IKF=4E-02  ISE=1.5E-12  TF=3.6E-11
+TR=1E-09  ITF=3E-02  VTF=5  CJC=0.40E-12
+CJE=0.19E-12  XTI=3.0  NE=1.5  ISC=3.7E-13  EG=1.11
+XTB=1.5  BR=5  VJC=0.75  VJE=0.75  IS=1.45E-13
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=2E-02  KF=1E-15
+NC=1.7  FC=0.5  RBM=2  IRB=5E-03  XCJC=0.5)
.MODEL SD D (IS=1E-16 CJO=1.3E-12 VJ=0.7 M=0.4 EG=1.11
+XTI=3 FC=0.5 RS=20 BV=8 IBV=4E-6 TT=2E-9)
.ENDS
**********
*SRC=MC10H164;MC10H164;ECL;MC10H;8 Line Mux, BJT Level
*SYM=ARF164
* PINOUT        VA EN X3 X2 X1 X0  A VE  B  C X4 X5 X6 X7  Z VB
* 8 line multiplexor
.SUBCKT MC10H164  1  2  3  4  5  6  7  8  9 10 11 12 13 14 15 16
X1 7 21 20 28 30 29 ECL1
X2 9 23 22 28 30 29 ECL1
X3 10 25 24 28 30 29 ECL1
X4   6 21 23 25 26 28 30 29 ECL4
X5   5 20 23 25 26 28 30 29 ECL4
X6   4 21 22 25 26 28 30 29 ECL4
X7   3 20 22 25 26 28 30 29 ECL4
X8  11 21 23 24 26 28 30 29 ECL4
X9  12 20 23 24 26 28 30 29 ECL4
X10 13 21 22 24 26 28 30 29 ECL4
X11 14 20 22 24 26 28 30 29 ECL4
X12 26 2 27 28 30 29 ECL2A
L1 1 28 3.5E-9
L2 8 29 3.5E-9
L3 16 30 3.5E-9
L4 15 27 2.5E-9
RPD 26 31 500
VPD 31 0 -2.0
.ENDS
.SUBCKT ECL1 1 4 5 6 7 8
* PINOUT ORDER IS IN +OUT -OUT VCCO VCCI VEE
RP1 4 9 500
RP2 5 9 500
VP2 9 0 -2.0
Q01 24 1 21 QFH
Q04 21 31 22 QFH
Q05 6 24 5 QFH
Q06 6 26 4 QFH
Q07 28 29 30 QFH
Q08 26 27 21 QFH
Q09 7 28 27 QFH
Q10 27 29 31 QFH
Q11 32 32 8 QFH
Q12 33 34 35 QFH
Q13 29 33 8 QFH
R01 1 8 50E3
R04 7 24 285
R05 7 29 1740
R06 7 26 285
R07 8 22 139
R08 31 32 251
R09 32 34 50
R10 8 35 217
R11 30 33 2178
R12 7 28 2178
.MODEL QFH NPN (BF= 80  VAF=120  VAR=12.0  RC=7.2 RB=4.1
+RE=.35  IKF=0.2E-01  ISE=0.15E-13  TF=0.255E-10
+TR=0.15E-08  ITF=0.2E-01  VTF=0.5E+01  CJC=0.43E-12
+CJE=0.13E-12  XTI=3.0  NE=1.5  ISC=0.37E-14  EG=1.11
+XTB=1.5  BR=5.7  VJC=0.75  VJE=0.75  IS=5.5E-14
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=0.2E-01  KF=0.1E-14
+NC=1.7  FC=0.50  RBM=3  IRB=0.30E-02  XCJC=0.5)
.ENDS
.SUBCKT ECL2A 1 2 5 6 7 8
* PINOUT ORDER IS INA INB -OUT VCCO VCCI VEE
VGR 39 0 -2.0
RD2 5 39 500
Q01 24 1 21 QFH
Q02 24 2 21 QFH
Q04 21 31 22 QFH
Q05 6 24 5 QFH
Q07 28 29 30 QFH
Q08 26 27 21 QFH
Q09 7 28 27 QFH
Q10 27 29 31 QFH
Q11 32 32 8 QFH
Q12 33 34 35 QFH
Q13 29 33 8 QFH
R01 1 8 50E3
R02 2 8 50E3
R04 7 24 285
R05 7 29 1740
R06 7 26 285
R07 8 22 139
R08 31 32 251
R09 32 34 50
R10 8 35 217
R11 30 33 2178
R12 7 28 2178
.MODEL QFH NPN (BF= 80  VAF=120  VAR=12.0  RC=7.2 RB=4.1
+RE=.35  IKF=0.2E-01  ISE=0.15E-13  TF=0.17E-10
+TR=0.07E-08  ITF=0.2E-01  VTF=0.5E+01  CJC=0.18E-12
+CJE=0.04E-12  XTI=3.0  NE=1.5  ISC=0.37E-14  EG=1.11
+XTB=1.5  BR=5.7  VJC=0.75  VJE=0.75  IS=5.5E-14
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=0.2E-01  KF=0.1E-14
+NC=1.7  FC=0.50  RBM=3  IRB=0.30E-02  XCJC=0.5)
.ENDS
.SUBCKT ECL4 1 2 3 9 5 6 7 8
* PINOUT ORDER IS INA INB INC IND -OUT VCCO VCCI VEE
Q14 24 9 21 QFH
Q01 24 1 21 QFH
Q02 24 2 21 QFH
Q03 24 3 21 QFH
Q04 21 31 22 QFH
Q05 6 24 5 QFH
Q07 28 29 30 QFH
Q08 26 27 21 QFH
Q09 7 28 27 QFH
Q10 27 29 31 QFH
Q11 32 32 8 QFH
Q12 33 34 35 QFH
Q13 29 33 8 QFH
R01 1 8 50E3
R02 2 8 50E3
R03 3 8 50E3
R13 9 8 50E3
R04 7 24 285
R05 7 29 1740
R06 7 26 285
R07 8 22 139
R08 31 32 251
R09 32 34 50
R10 8 35 217
R11 30 33 2178
R12 7 28 2178
.MODEL QFH NPN (BF= 80  VAF=120  VAR=12.0  RC=7.2 RB=4.1
+RE=.35  IKF=0.2E-01  ISE=0.15E-13  TF=0.255E-10
+TR=0.15E-08  ITF=0.2E-01  VTF=0.5E+01  CJC=0.73E-12
+CJE=0.36E-12  XTI=3.0  NE=1.5  ISC=0.37E-14  EG=1.11
+XTB=1.5  BR=5.7  VJC=0.75  VJE=0.75  IS=5.5E-14
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=0.2E-01  KF=0.1E-14
+NC=1.7  FC=0.50  RBM=3  IRB=0.30E-02  XCJC=0.5)
.ENDS
**********
*SRC=MC10H125;MC10H125;ECL;MC10H;Quad MECL-TTL Translator
*SYM=ARF125
*PINOUT 1   2   3   4   5   6   7   8   9   10   11   12   13   14   15   16
*      VB  AN   A  AO  BO  BN   B  VE  VC   CN   C    CO   DO   DN   D   GRD
* Quad MECL-to-TTL Translator
.SUBCKT MC10H125 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
L01 4 17 3.5E-9
L02 5 18 3.5E-9
L03 12 19 3.5E-9
L04 13 20 3.5E-9
L05 9 25 3.5E-9
L06 8 26 3.5E-9
X1  2  3 17 16 25 26 21 XLTB
X2  6  7 18 16 25 26 22 XLTB
X3 10 11 19 16 25 26 23 XLTB
X4 14 15 20 16 25 26  1 XLTB
RX1 21 0 10E6
RX2 22 0 10E6
RX3 23 0 10E6
ISP 8 16 0.013
.ENDS
* PINOUT ORDER IS INA INB NOUT GND +VTTL -VECL VBB
.SUBCKT XLTB       1   2    3   4    5     6   17
Q01 4 18 17 QMY
Q02 17 17 16 QMY
Q03 16 16 15 QMY
Q04 15 14 11 QMY
Q05 14 14 13 QMY
Q06 13 13 12 QMY
Q07 5 22 23 QTN
Q08 21 21 20 QTN
Q09 20 20 4 QTN
Q10 24 7 9 QMY
Q11 25 15 9 QMY
Q12 25 8 9 QMY
Q13 9 11 10 QMY
Q14 25 19 4 QTN
Q15 26 25 27 QTN
Q16 26 27 3 QTN 5
Q17 3 24 4 QTN 5
D1 25 26 SBD
D2 24 3 SBD
R01 4 18 171
R02 18 14 731
R03 11 6 420
R04 12 6 306
R05 5 19 7000
R06 19 6 3200
R07 5 22 1941
R08 22 21 372
R09 23 24 188
R10 1 7 75
R11 2 8 75
R12 10 6 140
R13 5 25 790
R14 27 4 3500
R15 5 26 60
.MODEL QMY NPN (BF= 80  VAF=120  VAR=12  RC=9.2 RB=4.1
+RE=0.74  IKF=2E-02  ISE=1.5E-14  TF=2.5E-11
+TR=2E-09  ITF=2E-02  VTF=5  CJC=0.90E-12
+CJE=0.39E-12  XTI=3.0  NE=1.5  ISC=3.7E-15  EG=1.11
+XTB=1.5  BR=5  VJC=0.75  VJE=0.75  IS=1.45E-15
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=2E-02  KF=1E-15
+NC=1.7  FC=0.5  RBM=3  IRB=3E-03  XCJC=0.5)
.MODEL SBD D (IS=1E-12 CJO=0.07E-12 VJ=0.7 M=0.4 EG=1.11
+XTI=3 FC=0.5 RS=8 BV=8 IBV=4E-6)
.MODEL QTN NPN (BF=45  VAF=40  VAR=12  RC=10 RB=30
+RE=3  IKF=2E-02  ISE=1.5E-16  TF=1.2E-11
+TR=1E-09  ITF=2E-02  VTF=4  CJC=0.065E-12
+CJE=0.041E-12  XTI=3  NE=1.5  ISC=3E-16  EG=1.11
+XTB=1.5  BR=2  VJC=0.75  VJE=0.75  IS=3E-15  CJS=0.11E-12
+MJC=0.33  MJE=0.33  XTF=4  IKR=1E-02  KF=1E-15
+NC=1.7  FC=0.5  RBM=9  IRB=2E-03  XCJC=0.5)
.ENDS
*********
*SRC=MC1648;MC1648;ECL;MECLIII;Multivibrator
*SYM=MC1648
* MC1648 ECL OSC
* PINOUT ORDER IS 1 VCC1 OUT AGC VEE2 BIAS TANK VCC2
* Voltage Controlled Multivibrator
.SUBCKT MC1648      1    3   5   8    10   12   14
Q01 1 27 3 QMV
Q02 27 16 29 QMV
Q03 14 26 29 QMV
Q04 26 12 25 QMV
Q05 5 25 24 QMV
Q06 14 12 20 QMV
Q07 12 10 20 QMV
Q08 21 22 38 QMV
VQ8 38 8 0
Q09 14 15 16 QMV
Q10 10 10 18 QMV
Q11 16 10 19 QMV
Q12 18 18 8 QMV
Q13 5 5 22 QMV
R01 14 15 750
R02 15 16 1000
R03 19 8 315
R04 14 10 3500
R05 20 21 25
R06 22 8 1500
R07 24 8 75
R08 25 8 100
R09 14 5 4000
R10 14 26 215
R12 14 27 87
R13 29 8 312
R14 3 8 625
.MODEL QMV NPN (BF= 80  VAF=110  VAR=11.0  RC=9.2 RB=4.1
+RE=0.74  IKF=3.2E-02  ISE=1.5E-14  TF=4.5E-11
+TR=2E-09  ITF=2.9E-02  VTF=5E+00  CJC=1.8E-12
+CJE=0.75E-12  XTI=3.0  NE=1.5  ISC=3.7E-15  EG=1.11
+XTB=1.5  BR=5.7  VJC=0.75  VJE=0.75  IS=1.45E-15
+MJC=0.33  MJE=0.33  XTF=4.0  IKR=2E-02  KF=1E-15
+NC=1.7  FC=0.50  RBM=2.9  IRB=3E-03  XCJC=0.5)
.ENDS
******
*SRC=10H135;M10H135;ECL;MC10H;JK-FF
*SYM=D_JKFF
*NAME=Limit;A;A;#7
*PARAM=clk_delay;delay from clk;real;1.6n;1p -;no;-;yes
*PARAM=set_delay;delay from set;real;1.6n;1p -;no;-;yes
*PARAM=reset_delay;delay from reset;real;1.6n;1p -;no;-;yes
*PARAM=ic;output initial state;int;0;0 2;no;-;yes
*PARAM=rise_delay;rise delay;real;1.45n;1p -;no;-;yes
*PARAM=fall_delay;fall delay;real;1.45n;1p -;no;-;yes
*PARAM=jk_load;j/k load (F);real;1p;-;no;-;yes
*PARAM=clk_load;clk load (F);real;1p;-;no;-;yes
*PARAM=set_load;set load (F);real;1p;-;no;-;yes
*PARAM=reset_load;reset load (F);real;1p;-;no;-;yes
.MODEL M10H135 D_JKFF(CLK_DELAY=1.6N SET_DELAY=1.6N RESET_DELAY=1.6N 
+ IC=0 RISE_DELAY=1.45N FALL_DELAY=1.45N JK_LOAD=1.0P CLK_LOAD=1.0P 
+ SET_LOAD=1.0P RESET_LOAD=1.0P)
*********
*SRC=10H131;M10H131;ECL;MC10H;D-FF
*SYM=D_DFFA
.SUBCKT M10H131 2  8   6  5    3 4  7
* Connections   d  clk set reset Q QN CE
*FAMILY ECLin ECLin ECLin ECLin ECLout ECLout ECLin
A1 2 1 ~6 ~5 3 4 10H131 
A2 [~7 8] 1 OR2
.MODEL or2 D_or(Rise_Delay=1P Fall_Delay=1P Input_Load=1P)
.MODEL 10H131 d_dff(clk_delay=1.2N nset_delay=1.2N nreset_delay=1.2N rise_delay=1.3N fall_delay=
+ 1.3N ic=0 data_load=1.0P clk_load=1.0P nset_load=1.0P nreset_load=1.0P)
.ENDS
*********
*SRC=MC10H105;MC10H105;ECL;MC10H;2-3-2 Or/Nor Gate
*SYM=MC10H105

.SUBCKT MC10H105 a0in a1in b0in b1in b2in c0in c1in 
+ aoutb aout boutb bout coutb cout

*FAMILY ECLin ECLin ECLin ECLin ECLin ECLin ECLin
+ ECLout ECLout ECLout ECLout ECLout ECLout

Aor1 [a0in a1in] aout hc_or
Aor2 [b0in b1in b2in] bout hc_or   
Aor3 [c0in c1in] cout hc_or

Ainv1 aout aoutb inv
Ainv2 bout boutb inv
Ainv3 cout coutb inv

.model inv d_inverter
.model hc_or d_or (rise_delay=.9n fall_delay=.9n)
.ends
********

